US08455522B2
Step 5; synthesis of 6-chloro-5-(5-(hydroxymethyl)pyridin-3-yl)-3-methylbenzo[d]oxazol-2(3H)-one
A mixture of 6-Chloro-3-methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3H-benzooxazol-2-one (60 mg, 0.194 mmol), (5-Bromo-pyridin-3-yl)-methanol (36.4 mg, 0.194 mmol), polymer bound Pd(PPh3)4 (44.1 mg, 4.85 μmol) in DME (5 mL) was heated to 100° C. for 4 hr. After filtration through a pad of Na2SO4, the solution was concentrated, and the residue was purified by column (MeOH—CH2Cl2, v/v, 1%-2.5%-4.0%) and yielded colorless solid (25 mg). 1H NMR (400.3 MHz, CDCl3): δ 3.35 (s, 3H), 4.77 (s, 2H), 6.85 (s, 1H), 7.31 (s, 1H), 7.74 (s, 1H), 8.53 (s, 1H), 8.57 (s, 1H). HRMS (ESI): calculated for C14H11ClN2O3: 290.04582. Found: 290.04666.

reactant | 6-Chloro-3-methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3H-benzooxazol-2-one | 0.194 mmol, 60 mg | ClC1=CC2=C(N(C(O2)=O)C)C=C1B1OC(C(O1)(C)C)(C)C | C14H17BClNO4
reactant | (5-Bromo-pyridin-3-yl)-methanol | 0.194 mmol, 36.4 mg | BrC=1C=C(C=NC1)CO | C6H6BrNO
solvent | DME | 5 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 4.85 μmol, 44.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-chloro-5-(5-(hydroxymethyl)pyridin-3-yl)-3-methylbenzo[d]oxazol-2(3H)-one | 25 mg | ClC1=CC2=C(N(C(O2)=O)C)C=C1C=1C=NC=C(C1)CO | C14H11ClN2O3
